US04409146
Suspend 1.15 g of 3-carboxyperhydroazepine [P. Krogsgaard-Larsen et al., Acta Chem. Scand., B32, 327 (1978)] in 8 ml benzyl alcohol. Cool the mixture to 0° and add 1 ml thionyl chloride. Stir the mixture at room temperature for 48 hours, then add it dropwise to 300 ml ether with vigorous stirring. Decant the ether and dissolve the residue in H2O. Wash the aqueous solution with ether, then make it to pH 12 and extract with ethyl acetate. Dry the extracts and concentrate in vacuo to obtain 3-benzyloxycarbonylperhydroazepine.

reactant | 3-carboxyperhydroazepine | 1.15 g | C(=O)(O)C1CNCCCC1 | C7H13NO2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | benzyl alcohol | 8 ml | C(C1=CC=CC=C1)O | C7H8O
product | 3-benzyloxycarbonylperhydroazepine | C(C1=CC=CC=C1)OC(=O)C1CNCCCC1 | C14H19NO2
